US05741804
(i) Methyl 3-isothiocyanatopropionate
To β-alanine methyl esterhydrochloric acid salt suspended in methylene chloride (60 mL) was added triethylamine (10.87 g, 107.4 mmol). The reaction mixture was cooled downed to -15° C. before adding carbon disulfide (4.1 g, 53.8 mmol) dissolved in chloromethane (30 mL) dropwise over 25 minutes. The reaction was warmed to 10° C. and stirred for 10 minutes. before lowering the temperature to 0° C. and adding ethyl chloroformate (5.83 g, 53.7 mmol) dissolved in chloromethane (5 mL) dropwise over 15 minutes. The temperature was increased to room temperature and stirred for 20 minutes before lowering to 0° C. Triethylamine (5.43 g, 53.7 mmol) was then added. The temperature was increased to room temperature and then stirred for 30 minutes. The reaction mixture was washed with water (50 mL), 1N hydrochloric acid (50 mL), 5% sodium bicarbonate and water (50 mL), dried over magnesium sulfate, filtered and concentrated under vacuo to give 7.3 g. of crude product. Flash chromatography (ethyl acetate/hexane, 1:4) afforded the desired product (4.03 g, 52%).

reactant | β-alanine methyl | COC(=O)CCN | C4H9NO2
reactant | triethylamine | 107.4 mmol, 10.87 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 53.8 mmol, 4.1 g | C(=S)=S | CS2
reactant | ethyl chloroformate | 53.7 mmol, 5.83 g | ClC(=O)OCC | C3H5ClO2
reactant | Triethylamine | 53.7 mmol, 5.43 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | chloromethane | 30 mL | ClC | CH3Cl
solvent | chloromethane | 5 mL | ClC | CH3Cl
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | Methyl 3-isothiocyanatopropionate | 4.03 g, 52% | N(=C=S)CCC(=O)OC | C5H7NO2S
